US07439393B2
ii) 2-[(6-Bromohexyl)oxy]ethanol
A solution of [(2-[(6-bromohexyl)oxy]ethoxy)methyl]benzene (1.5 g) in EtOAc (20 ml) and EtOH (20 ml) was hydrogenated over 10% palladium on carbon (200 mg). After 2 h the mixture was filtered through celite and the filtrate evaporated in vacuo to give the title compound (1.05 g). TSP+ve 242 (MNH4)+, 244 (MNH4)+

reactant | [(2-[(6-bromohexyl)oxy]ethoxy)methyl]benzene | 1.5 g | BrCCCCCCOCCOCC1=CC=CC=C1 | C15H23BrO2
solvent | EtOAc | 20 ml | CCOC(=O)C | C4H8O2
solvent | EtOH | 20 ml | CCO | C2H6O
catalyst | palladium on carbon | 200 mg | [Pd] | Pd
product | 2-[(6-Bromohexyl)oxy]ethanol | 1.05 g | BrCCCCCCOCCO | C8H17BrO2
